US07179820B2
Trifluoroacetic acid (0.5 mL, 6.5 mmol) was added to a solution of {4-[(R)-2-(1-ethoxy-ethoxymethyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetonitrile (290 mg, 0.94 mmol) in CH2Cl2 (3 mL). After 1 h at rt, the reaction mixture was quenched with saturated aqueous NaHCO3 (20 mL) and extracted with CH2Cl2 (3×20 mL). Combined extracts were dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→3% MeOH/CH2Cl2, gradient) afforded 118 mg (53%) of [4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetonitrile.

reactant | Trifluoroacetic acid | 6.5 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | {4-[(R)-2-(1-ethoxy-ethoxymethyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetonitrile | 0.94 mmol, 290 mg | C(C)OC(C)OC[C@@H]1N(C(CCC1)=O)CC#CCOCC#N | C16H24N2O4
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | [4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetonitrile | 118 mg, 53% | OC[C@@H]1N(C(CCC1)=O)CC#CCOCC#N | C12H16N2O3
